US04001426
A mixture of 2.0 g. (6.1 mmol.) of 2-p-hydroxyphenyl-3-p-methylbenzoylbenzofuran, 2.6 g. (0.019 mol.) of epibromohydrin and 3.0 g. (0.021 mol.) of potassium carbonate in 100 ml. of dry acetone was refluxed for 12 hours. After cooling, the reaction mixture was filtered and the filtrate was concentrated to give 2-[4'-(2,3-epoxypropoxy)phenyl]-3-(4'-methylbenzoyl)benzofuran.

reactant | 2-p-hydroxyphenyl-3-p-methylbenzoylbenzofuran | 6.1 mmol | OC1=CC=C(C=C1)C=1OC2=C(C1C(C1=CC=C(C=C1)C)=O)C=CC=C2 | C22H16O3
reactant | epibromohydrin | 0.019 mol | C(Br)C1CO1 | C3H5BrO
reactant | potassium carbonate | 0.021 mol | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 2-[4'-(2,3-epoxypropoxy)phenyl]-3-(4'-methylbenzoyl)benzofuran | O1C(COC2=CC=C(C=C2)C=2OC3=C(C2C(C2=CC=C(C=C2)C)=O)C=CC=C3)C1 | C25H20O4
